US08530490B2
Synthesis of (3-cyclobutoxyphenyl)methanamine
3-Cyanophenol (1.25 g), triphenylphosphine (2.9 g), and cyclobutanol (1.2 mL) were dissolved in THF (15 mL). To the solution, a toluene solution of diethyl azodicarboxylate (hereinafter, referred to as DEAD) (2.2 M, 5.0 mL) was gradually added dropwise at 0° C., and the mixture was then stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure. To the residue, ethyl acetate (20 mL) was then added, and the organic layer was washed with an aqueous sodium hydroxide solution (1.0 M, 5.0 mL), dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (40% ethyl acetate/hexane). The obtained compound was dissolved in THF (5.0 mL). To the solution, a solution of LAH in THF (2.4 M, 5.3 mL) was gradually added dropwise at 0° C., and the mixture was stirred at 45° C. for 4 hours. To the reaction mixture, water (1.0 mL), an aqueous sodium hydroxide solution (1.0 M, 1.0 mL), and water (0.5 mL) were gradually added at 0° C. The resultant precipitate was removed by filtration and washed with 10% methanol/THF (40 mL). Then, the combined filtrate was concentrated under reduced pressure. To the residue, water (5.0 mL) was added, and the resultant mixture was then extracted with ethyl acetate (20 mL×3). The organic layer was washed with brine (20 mL), then dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain the title compound (1.25 g) as a crude product.

reactant | 3-Cyanophenol | 1.25 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | triphenylphosphine | 2.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cyclobutanol | 1.2 mL | C1(CCC1)O | C4H8O
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (3-cyclobutoxyphenyl)methanamine | 1.25 g | C1(CCC1)OC=1C=C(C=CC1)CN | C11H15NO
